US07393868B2
Combine 2-Hydroxy-4-methylsulfanyl-benzoic acid methyl ester (5.072 g, 25.58 mmol), pyridine, and CH2Cl2 at 0° C. and stir. Add triflic anhydride (5.1 ml, 30.31 mmol) drop wise over several min. After 4 hours dilute the mixture with CH2Cl2 and wash with 1N HCl, H2O, and dry over Na2SO4, filter and concentrate under reduced pressure to yield 4-Methylsulfanyl-2-trifluoromethanesulfonyloxy-benzoic acid methyl ester (7.775 g, 92%). MS (m/e): 330.8(M+1).

reactant | 2-Hydroxy-4-methylsulfanyl-benzoic acid methyl ester | 25.58 mmol, 5.072 g | COC(C1=C(C=C(C=C1)SC)O)=O | C9H10O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 30.31 mmol, 5.1 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-Methylsulfanyl-2-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 7.775 g, 92% | COC(C1=C(C=C(C=C1)SC)OS(=O)(=O)C(F)(F)F)=O | C10H9F3O5S2
